US05814692
A solution of 26.2 g (0.10 mol) of 5,7-di-tert-butyl-3-hydroxy-3H-benzofuran-2-one (compound (20(1), Table 2, Example 1a) in 25 ml (0.21 mol) of thioanisole is added dropwise to a solution of 14.7 g (0.11 mol) of aluminium chloride in 15 ml (0.13 mol) of thioanisole at 35°-40° C. The reaction mixture is thereafter stirred for 30 minutes at 30° C. and for 2 hours at 80° C., and then after cooling, c. 50 ml of water and then concentrated hydrochloric acid and methylene chloride are added cautiously in sufficient amount to form a homogeneous two-phase mixture. The organic phase is separated, washed with water, dried over sodium sulfate and concentrated on a vacuum rotary evaporator. Crystallisation of the residue from ethanol yields 6.7 g (18%) of 5,7-di-tert-butyl-3-(4-methylthiophenyl)-3H-benzofuran-2-one, m.p. 125°-131° C. (compound (108), Table 1).

reactant | 5,7-di-tert-butyl-3-hydroxy-3H-benzofuran-2-one | 0.10 mol, 26.2 g | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)O)C1)C(C)(C)C | C16H22O3
reactant | thioanisole | 0.21 mol, 25 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | aluminium chloride | 0.11 mol, 14.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thioanisole | 0.13 mol, 15 ml | C1(=CC=CC=C1)SC | C7H8S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 5,7-di-tert-butyl-3-(4-methylthiophenyl)-3H-benzofuran-2-one | 6.7 g, 18% | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)C2=CC=C(C=C2)SC)C1)C(C)(C)C | C23H28O2S
